US04806549
Ethyl 2-acetyl-3-(2-methoxyphenylamino)acrylate (48 g) was added in portions to boiling diphenyl ether (250 ml) and the mixture heated under reflux for 1 hour. The mixture was cooled and crystallised from a 1:1 mixture of ether and petroleum ether. The solid was filtered off and triturated with boiling ethanol to give 3-acetyl-8-methoxy-4(1H)-quinolone as a brown solid (12.1 g, 31%), m.p. 287°-289°.

reactant | Ethyl 2-acetyl-3-(2-methoxyphenylamino)acrylate | 48 g | C(C)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)OC | C14H17NO4
solvent | diphenyl ether | 250 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-acetyl-8-methoxy-4(1H)-quinolone | 12.1 g, 31% | C(C)(=O)C1=CNC2=C(C=CC=C2C1=O)OC | C12H11NO3
